US09293712B2
Bis(pinacolato)diboron (5.1 g, 20.0 mmol) and KOAc (2.0 g, 20.0 mmol) were added to a solution of 1-([1,1′-biphenyl]-3-yl)-6-bromopyrene (4.5 g, 10.0 mmol) in 1,4-dioxane (125 mL), and the solution was bubbled with nitrogen for 15 min. Pd(dppf)Cl2.CH2Cl2 (0.4 g, 0.5 mmol) was then added to the solution, and the reaction mixture was bubbled with nitrogen for 15 min. The resultant mixture was refluxed for 18 h. After cooling, the reaction mixture was filtered through a silica pad and washed with DCM (containing 0.5% triethylamine). The solvent was removed in vacuo and the residue was purified by flash chromatography using 20-60% DCM/hexane (containing 0.5% triethylamine) to yield 2-(6-([1,1′-biphenyl]-3-yl)pyren-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (3.5 g, 73% yield) as a yellow solid.

reactant | Bis(pinacolato)diboron | 20.0 mmol, 5.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 20.0 mmol, 2.0 g | CC(=O)[O-].[K+]
reactant | 1-([1,1′-biphenyl]-3-yl)-6-bromopyrene | 10.0 mmol, 4.5 g | C1(=CC(=CC=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br)C3=CC=CC=C3 | C28H17Br
reactant | CH2Cl2 | 0.5 mmol, 0.4 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 125 mL | O1CCOCC1 | C4H8O2
product | 2-(6-([1,1′-biphenyl]-3-yl)pyren-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.5 g, 73% yield | C1(=CC(=CC=C1)C1=C2C=CC3=CC=C(C4=CC=C(C=C1)C2=C43)B4OC(C(O4)(C)C)(C)C)C4=CC=CC=C4 | C34H29BO2
